US06887896B1
6-Bromo-7-ethoxy-1,1-dimethyl-1,2,3,4-tetrahydronaphthalene (Compound A-3)
A mixture of 3-bromo-8,8-dimethyl-5,6,7,8-tetrahydronaphthalen-2-ol (Compound A-2, 5.77 g, 22.62 mmol); iodoethane (7.2 mL, 90.5 mmol), and potassium carbonate (4.68 g, 34 mmol) in acetone (50 mL) was stirred at 70° C. overnight. The solvent was removed in vacuo. The residue was purified by column chromatography (silica gel, 2.5% ethyl acetate in hexane) to afford the title compound as a pale yellow oil.

reactant | 3-bromo-8,8-dimethyl-5,6,7,8-tetrahydronaphthalen-2-ol | 22.62 mmol, 5.77 g | BrC=1C(=CC=2C(CCCC2C1)(C)C)O | C12H15BrO
reactant | iodoethane | 90.5 mmol, 7.2 mL | ICC | C2H5I
reactant | potassium carbonate | 34 mmol, 4.68 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 6-Bromo-7-ethoxy-1,1-dimethyl-1,2,3,4-tetrahydronaphthalene | BrC=1C=C2CCCC(C2=CC1OCC)(C)C | C14H19BrO
